US09353104B2
The crude 4,5-dimethylthiazole-2-carbaldehyde oxime (300 mg, 2 mmol) was dissolved in acetic acid (25 mL), zinc dust (1.8 g, 27.5 mmol) was added portionwise at room temperature and the reaction mixture was stirred at room temperature for 3 hours. The mixture was then filtered over a pad of celite and rinsed with methanol. Toluene was added and the filtrate was concentrated. An aqueous solution of NH4Cl was added, the solution was acidified to pH=2 with HCl (1N) and extracted with diethyl ether and ethyl acetate. The aqueous layer was basified with aqueous NaOH to pH=10, and then extracted with diethyl ether and ethyl acetate. Combined organic extracts were dried over sodium sulfate, filtered and evaporated to give crude (4,5-dimethyl-1,3-thiazol-2-yl)methylamine as a pale yellow oil which was used in the next step without purification. LCMS m/z (M+H) 143.1 found, 143.1 required.

reactant | 4,5-dimethylthiazole-2-carbaldehyde oxime | 2 mmol, 300 mg | CC=1N=C(SC1C)C=NO | C6H8N2OS
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 27.5 mmol, 1.8 g | [Zn] | Zn
product | (4,5-dimethyl-1,3-thiazol-2-yl)methylamine | CC=1N=C(SC1C)CN | C6H10N2S
